US07932247B2
1,1-Dimethylethyl 4-{[3-({[(6-fluoro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]amino}carbonyl)phenyl]methyl}-1-piperidinecarboxylate
A solution of phenylmethyl (2S)-4-[(5′-{[({3-[(1-{[(1,1-dimethylethyl)oxy]carbonyl}-4-piperidinyl)methyl]phenyl}carbonyl)amino]methyl}-2′-fluoro-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate (1.5 g, 2.0 mmol) and 10% Pd/C (450 mg) in methanol (50 mL) was allowed to react with H2 at rt under atmospheric pressure for 12 hours. The solvent was removed under vacuum. The resulting residue was purified by loading onto 20 g aminopropyl SPE cartridge and eluting sequentially with DCM (3×50 mL), EtOAc (3×50 mL), and MeOH (3×50 mL). The methanol fractions were combined and evaporated to give the title compound as a pale yellow solid (60 mg, 35%). LC/MS: m/z, 615 (M+H), 1.93 min.

reactant | phenylmethyl (2S)-4-[(5′-{[({3-[(1-{[(1,1-dimethylethyl)oxy]carbonyl}-4-piperidinyl)methyl]phenyl}carbonyl)amino]methyl}-2′-fluoro-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate | 2.0 mmol, 1.5 g | CC(C)(C)OC(=O)N1CCC(CC1)CC=1C=C(C=CC1)C(=O)NCC=1C=CC(=C(C1)C1=CC(=CC=C1)CN1C[C@@H](N(CC1)C(=O)OCC1=CC=CC=C1)C)F | C45H53FN4O5
solvent | methanol | 50 mL | CO | CH4O
catalyst | Pd/C | 450 mg | [Pd] | Pd
product | 1,1-Dimethylethyl 4-{[3-({[(6-fluoro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]amino}carbonyl)phenyl]methyl}-1-piperidinecarboxylate | 60 mg, 35% | FC1=CC=C(C=C1C1=CC(=CC=C1)CN1C[C@@H](NCC1)C)CNC(=O)C=1C=C(C=CC1)CC1CCN(CC1)C(=O)OC(C)(C)C | C37H47FN4O3
